US06541504B1
3-(6-Amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one
To a solution of 5-chlorooxindole (0.629 g, 3.78 mmol) in 10.0 mL monoglyme was added 7.51 mL sodium hexamethyldisilazane (1.0 M in THF) over 3 min. After stirring at room temperature for 8 min, a slurry of 6-aminophthalide (0.561 g, 3.78 mmol) in 4.0 mL of monoglyme was added in one portion. The mixture was stirred for 40 min and then quenched into 100 mL of 4% aqueous HCl solution. The yellow solid was filtered and then partitioned between EtOAc and saturated NaHCO3 (heated to dissolve the solid). The organic phase was washed with H2O, brine and then dried with Na2SO4. The solvent was removed in vacuo and the residue was triturated with MeOH to give the title compound (439 mg, 39%) as a yellow solid.

reactant | 5-chlorooxindole | 3.78 mmol, 0.629 g | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | sodium hexamethyldisilazane | 1.0 M, 7.51 mL | C[Si](N[Si](C)(C)C)(C)C.[Na]
reactant | 6-aminophthalide | 3.78 mmol, 0.561 g | NC1=CC=C2COC(=O)C2=C1 | C8H7NO2
solvent | monoglyme | 10.0 mL | C(OC)COC | C4H10O2
solvent | monoglyme | 4.0 mL | C(OC)COC | C4H10O2
product | 3-(6-Amino-3H-isobenzofuran-1-ylidene)-5-chloro-1,3-dihydro-indol-2-one | 439 mg, 39% | NC1=CC=C2COC(C2=C1)=C1C(NC2=CC=C(C=C12)Cl)=O | C16H11ClN2O2
